US05648373
Ethyl 6-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)hexanoate
A mixture of 1,4,5 triphenylimidazole (6.24 g), ethyl 6-bromohexanoate (13.38 g), potassium carbonate (13.2 g) and 2-butanone was stirred at reflux for 6 hours. The mixture was filtered, and the filtrate was evaporated. The residue was chromatographed on silica gel eluted with ethanol-hexane to give the title compound (5.61 g) m.p. 104°-106° C. Found: C, 76.35; H, 6.58; N, 6.07%; (C29H30N2O2O3) Requires: C, 76.63; H, 6.65; N, 6.16%

reactant | 1,4,5 triphenylimidazole | 6.24 g | C1(=CC=CC=C1)N1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | ethyl 6-bromohexanoate | 13.38 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | potassium carbonate | 13.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | Ethyl 6-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)hexanoate | 5.61 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC(=O)OCC)=O | C29H30N2O3
